US08754114B2
Step 1: tert-butyl {3-[(4-bromo-2-nitrophenyl)amino]phenyl}carbamate
A mixture of 4-bromo-1-fluoro-2-nitrobenzene (6.0 g, 27 mmol, Aldrich, Cat. No. 539112) and tert-butyl (3-aminophenyl)carbamate (6.7 g, 32 mmol, Aldrich, Cat. No. 53175) in N-methylpyrrolidinone (30 mL) was heated at 150° C. overnight. The solution was cooled to room temperature (r.t.) and quenched with NaHCO3 aqueous solution, then extracted with ethyl acetate twice. The combined organic phases were washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to afford the desired compound (10.1 g, 91%). LCMS (M+H)+: m/z=408.0.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | tert-butyl (3-aminophenyl)carbamate | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
solvent | N-methylpyrrolidinone | 30 mL | CN1C(CCC1)=O | C5H9NO
product | tert-butyl {3-[(4-bromo-2-nitrophenyl)amino]phenyl}carbamate | 10.1 g, 91% | BrC1=CC(=C(C=C1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C17H18BrN3O4
